US07253190B2
Following the procedure in COMPOUND 3 for the synthesis of 5-(3-bromophenyl)-2H-tetrazole, 1,3-dicyanobenzene (2.0 g, 15.63 mmol) was employed to obtain 3-(2H-tetrazol-5-yl)benzonitrile.

reactant | 5-(3-bromophenyl)-2H-tetrazole | BrC=1C=C(C=CC1)C=1N=NNN1 | C7H5BrN4
reactant | 1,3-dicyanobenzene | 15.63 mmol, 2.0 g | C(#N)C1=CC(=CC=C1)C#N | C8H4N2
product | 3-(2H-tetrazol-5-yl)benzonitrile | N=1NN=NC1C=1C=C(C#N)C=CC1 | C8H5N5
